US05399580
(1S,2R,3R,5R)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (2.00 g, 4.51 mmol) was dissolved in dry N,N-dimethylformamide (9 mL) and heated to 90° C. N-bromosuccinimide (1.62 g, 9.02 mmol) was added in four portions over 5 hours. Volatiles were evaporated in vacuo. The residue was chromatographed on silica gel and product was eluted with 30-50% ethyl acetate-hexanes as a yellow glass (1.00 g, 43%); 1H-NMR(DMSO-d6) consistent with structure. This sample was deblocked with sodium carbonate (203 mg, 1.9 mmol) in water (3 mL)-ethanol(15 mL)-methanol(15 mL) at ambient temperature for 5 hours. The pH was adjusted to 7 with acetic acid. The solution was evaporated to dryness in vacuo and the residue was triturated with water to give white powder which was chromatographed. Elution of a silica gel column with 10-12% methanol-chloroform gave (1S,2R,3R,5R)-5 -(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol as white powder after solidification from 1:1 ethanol-methanol (410 mg, 54%), m.p. 212°-215° C.; 1H-NMR(DMSO-d6) and mass spectrum identical with those of racemate described in Example 4; [α]20589 -31.2°, [α]20578 -32.3°, [α]20546 -37.3° (c=0.260, methanol).

reactant | (1S,2R,3R,5R)-3-(Acetoxymethyl)-5-(5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 4.51 mmol, 2.00 g | C(C)(=O)O[C@@H]1[C@@H]([C@H](C[C@H]1N1C=NC2=C1C=C(C(=C2)Cl)Cl)COC(C)=O)OC(C)=O | C19H20Cl2N2O6
reactant | N-bromosuccinimide | 9.02 mmol, 1.62 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium carbonate | 1.9 mmol, 203 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
solvent | water | 3 mL | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 15 mL | CO | CH4O
product | (1S,2R,3R,5R)-5 -(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | BrC1=NC2=C(N1[C@@H]1C[C@@H]([C@H]([C@H]1O)O)CO)C=C(C(=C2)Cl)Cl | C13H13BrCl2N2O3
